US08404679B2
a) N-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 97, the title compound N-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide was prepared from [(3R,4S)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine using 4-fluorophenylacetic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light yellow oil. MS m/e: 471.2 [M]+.

reactant | [(3R,4S)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)Cl)Cl)NC | C18H20Cl2N2
reactant | 4-fluorophenylacetic acid | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
product | N-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N(C(CC1=CC=C(C=C1)F)=O)C | C26H25Cl2FN2O
